US07067517B2
Morpholine-4-carboxylic acid 2-phenylsulfanyl-imidazol-1-yl ester
The title compound was prepared from 1-hydroxy-2-phenylsulfanylimidazole, hydrochloride and 4-morpholine carbonyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc) (98%, oil).

reactant | 1-hydroxy-2-phenylsulfanylimidazole, hydrochloride | Cl.ON1C(=NC=C1)SC1=CC=CC=C1
reactant | 4-morpholine carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | Morpholine-4-carboxylic acid 2-phenylsulfanyl-imidazol-1-yl ester | C1(=CC=CC=C1)SC=1N(C=CN1)OC(=O)N1CCOCC1 | C14H15N3O3S
